US07723332B2
According to general procedure C, 4-Bromo-2-fluoro-benzenesulfonyl chloride (0.40 g, 1.46 mmol) and isopropylamine (0.31 mL, 3.65 mmol) were stirred together with dry dichloromethane (5 mL) for 16 hours. 4-bromo-2-fluoro-N-isopropylbenzenesulfonamide (189 mg, 44%) was provided after purification. MS (ESI) m/z 296. HPLC purity 100.0% at 210-370 nm, 10.6 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-2-fluoro-benzenesulfonyl chloride | 1.46 mmol, 0.40 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | isopropylamine | 3.65 mmol, 0.31 mL | C(C)(C)N | C3H9N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-bromo-2-fluoro-N-isopropylbenzenesulfonamide | 189 mg, 44% | BrC1=CC(=C(C=C1)S(=O)(=O)NC(C)C)F | C9H11BrFNO2S
